US07157454B2
B) Methyl 3-(phenylamino)propionate
A mixture of 20 ml of aniline, 22 ml of methyl acrylate and 2 ml of acetic acid is refluxed for 8 hours. After concentrating the reaction mixture under vacuum, the resulting oil is distilled off under reduced pressure (b.p.=132° C. at 333.3 Pa and then b.p.=110° C. at 6.66 Pa). The product obtained is taken up in hexane and the precipitate formed is filtered off by suction. 25 g of the expected product are obtained.

reactant | aniline | 20 ml | NC1=CC=CC=C1 | C6H7N
reactant | methyl acrylate | 22 ml | C(C=C)(=O)OC | C4H6O2
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | hexane | CCCCCC | C6H14
product | Methyl 3-(phenylamino)propionate | 25 g | C1(=CC=CC=C1)NCCC(=O)OC | C10H13NO2
